US05411980
Step A: Methyl 2-bromo-3-methylbutyrate
2-Bromo-3-methylbutyric acid (3.65 g, 20 mmole) was esterified in refluxing methanol containing 2 mL concentrated sulfuric acid for 22 hours. After cooling to room temperature, volatiles were evaporated and the residue was taken up in 50 mL of water and extracted with Et2O. The ether layer was washed with 5% aq. NaHCO3, water brine, and dried over Na2SO4. The desired material was obtained after filtration and removal of volatiles; homogeneous by TLC in 4/1 hexane/EtOAc.

reactant | 2-Bromo-3-methylbutyric acid | 20 mmole, 3.65 g | BrC(C(=O)O)C(C)C | C5H9BrO2
reactant | methanol | 2 mL | CO | CH4O
product | Methyl 2-bromo-3-methylbutyrate | BrC(C(=O)OC)C(C)C | C6H11BrO2
